US08895596B2
Ethyl 3-hydroxycyclopentanecarboxylate.
To a 0° C. solution of ethyl-3-oxo-cyclopentane-1-carboxylate (2.0 g) in THF (50 mL) was added NaBH4 (970 mg). The reaction mixture was maintained at 0° C. for 30 min, and then overnight at ambient temperature. The reaction was then treated with H2O and diluted with Et2O. The resulting layers were separated, and the aqueous layer was further extracted with Et2O. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated. The resulting crude product (a mixture of cis/trans isomers) was used in the next step without further purification.

reactant | ethyl-3-oxo-cyclopentane-1-carboxylate | 2.0 g | C(C)OC(=O)C1CC(CC1)=O | C8H12O3
reactant | NaBH4 | 970 mg | [BH4-].[Na+]
reactant | H2O | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | Ethyl 3-hydroxycyclopentanecarboxylate | OC1CC(CC1)C(=O)OCC | C8H14O3
